US06384080B1
To a mixture of 4-(methylthio)benzyl alcohol (2.00 g) and carbon tetrabromide (6.45 g) in dichloromethane (40 mL) was added triphenylphosphine (4.08 g), and the mixture was stirred for an hour at ambient temperature. After evaporation of the solvent, the residue was purified by a silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (20:1) to give 4-(methylthio)benzyl bromide (2.00 g) as a colorless oil.

reactant | 4-(methylthio)benzyl alcohol | 2.00 g | CSC1=CC=C(CO)C=C1 | C8H10OS
reactant | carbon tetrabromide | 6.45 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 4.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4-(methylthio)benzyl bromide | 2.00 g | CSC1=CC=C(CBr)C=C1 | C8H9BrS
